//============================================================================
// BJT - Bipolar Junction Transistor
// Qxx NC NB NE
//      [NS] [TH] MNAME [[AREA=]AREA_VAL] [AREAB=AREA_VAL]
//    + [AREAC=AREA_VAL] [T[EMP]=VAL] [DTEMP=VAL] [M=VAL] [OFF=0|1]
//    + [STATISTICAL=0|1] [NOISE=0|1] [NONOISE]
//
//      [NS] MNAME [FMIN=VAL] [FMAX=VAL] [NBF=VAL] [STATISTICAL=0|1]
//============================================================================
q1 1 2 3 bipol1 t=50
q1 1 2 3 bipol1
q2 1 2 3 bipol1
q3 1 2 4 bipol1
q1 1 2 3 bipol1 M=2
Q1 vplus in out 0 QND_model area=10
Q1 C B S QND AREA=10
q23 10 24 13 qmod

// ============================================================================
// SPICE
// ============================================================================
// Bipolar Junction Transistors (BJTs)
Q23 10 24 13 QMOD IC=0.6, 5.0
Q50A 11 26 4 20 MOD1